Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Paxil
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
ADMISSION LABS: 
___ 01:27PM BLOOD WBC-18.1* RBC-4.11* Hgb-13.8 Hct-41.3 
MCV-101* MCH-33.6* MCHC-33.4 RDW-14.3 RDWSD-53.1* Plt ___
___ 01:27PM BLOOD Neuts-90.7* Lymphs-3.3* Monos-5.2 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-16.42* AbsLymp-0.60* 
AbsMono-0.95* AbsEos-0.00* AbsBaso-0.02
___ 07:38PM BLOOD ___ PTT-31.3 ___
___ 12:00PM BLOOD Glucose-105* UreaN-32* Creat-1.7* Na-131* 
K-5.0 Cl-95* HCO3-19* AnGap-17
___ 12:00PM BLOOD ALT-75* AST-223* CK(CPK)-2934* 
AlkPhos-116 TotBili-1.4
___ 12:00PM BLOOD CK-MB-3 cTropnT-0.06*
___ 12:00PM BLOOD Albumin-3.4* Calcium-9.1 Phos-4.4 Mg-2.2
___ 12:31PM BLOOD ___ pO2-46* pCO2-33* pH-7.43 
calTCO2-23 Base XS-0 Comment-GREEN TOP 

DISCHARGE LABS: 
Patient deceased

IMAGING: 
CT Chest
IMPRESSION:  
Extensive bilateral ground-glass opacities with peripheral 
fibrosis, 
bronchiectasis, and a few scattered foci of honeycombing are new 
from ___.  
These findings ___ represent progression of NSIP, however due to 
significant 
respiratory motion, superimposed infectious process is difficult 
to exclude in 
the appropriate clinical context.  If clinically indicated, 
recommend further 
evaluation with nonurgent, high-resolution CT scan with ILD 
protocol 

 
Brief Hospital Course:
Mr. ___ presented with fever and altered mental status and 
was found to have hypoxic respiratory failure and septic shock. 
He also had one run of sustained ventricular tachycardia from 
hypokalemia that resolved with potassium repletion. Regarding 
his septic shock, he was given fluids and vasopressors. He was 
found to have positive blood cultures with group B strep with 
subsequent TTE showing a vegetation on his mitral valve and was 
receiving IV antibiotics for endocarditis. His hypoxic 
respiratory failure continued to worsen during his ICU stay. 
Initially thought secondary to bacterial pneumonia on top of his 
severe non-specific interstitial pneumonia exacerbated by volume 
overload, Mr. ___ initially responded favorably to 
antibiotics and diuresis. However, his baseline dementia 
complicated by ICU delirium lead to silent aspiration 
contributing to worsening lung function. His pulmonary edema 
also began to worsen despite aggressive diuresis. He 
decompensated overnight on ___ with severe tachypnea and 
accessory muscle use. He was placed back on HFNC and given 
morphine for dyspnea. He was started on steroids for any 
contribution from his ILD recognizing the risk of worsening his 
endocarditis. A family meeting was held subsequent to his 
clinical deterioration, a living will from Mr. ___ 
documented that he would not want life-sustaining treatments if 
there was no hope of meaningful recovery/quality of life. Thus, 
the goal of care was shifted to focusing on comfort/quality of 
life. Later in the day on ___, Mr. ___ expired from 
hypoxic respiratory failure.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 100 mg PO QAM 
2. Rivaroxaban 10 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Allopurinol ___ mg PO BID 
5. DULoxetine ___ 30 mg PO DAILY 
6. trospium 20 mg oral BID 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
Deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Deceased
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Deceased
 
Followup Instructions:
___